US08071588B2
A mixture of 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine hydrochloride (400 mg, 1.18 mmol), mono-methyl succinate (156 mg, 1.18 mmol), HBTU (536 mg, 1.41 mmol) and Et3N (0.82 mL, 5.89 mmol) in DCM (8 mL) was stirred at room temperature over the weekend. It was quenched with saturated NaHCO3 and extracted with DCM twice. The combined organic layers were washed with water followed by a brine wash. The organic layer was dried over sodium sulfate, filtered, concentrated and purified with CombiFlash eluting with 70% ethyl acetate in hexane. The product fractions were combined and concentrated to give methyl 4-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-4-oxobutanoate as an oil (520 mg, 105%). LC-MS m/z 418 (M+H)+.

reactant | 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine hydrochloride | 1.18 mmol, 400 mg | Cl.NCC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCOCC2
reactant | mono-methyl succinate | 1.18 mmol, 156 mg | C(CCC(=O)[O-])(=O)OC
reactant | HBTU | 1.41 mmol, 536 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 5.89 mmol, 0.82 mL | CCN(CC)CC | C6H15N
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-4-oxobutanoate | 520 mg, 105% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CCC(=O)OC)=O)CC | C21H31N5O4
